### PR TITLE
Unifall: episode II - apply

### PR DESCRIPTION
**Pull request by mattam82**
This set of commits (on top of unifall-infra) ports apply to the evar_conv unification and evar-based clauses, leaving almost everything else unchanged (it still impacts reflexivity and eauto's exact which use apply or clenv's unify primitive). Right now I'm just curious about potential compatibility issues on Travis. The ones I found in the stdlib are either:
- apply/eapply discrepancies, apply was allowing itself to produce dependent subgoals sometimes
- different occurrence selection in higher-order unification, due to different heuristics being used. This is rare as often the user provides enough info (e.g. a predicate) to disambiguate.

Let's see what Travis has in store.

Depends on #7825.

### CODE REVIEW

**Comment by silene** [comment]
> apply was allowing itself to produce dependent subgoals sometimes

Looking at the changes to the standard library, it seems that the old `apply` allowed evars to be refined, while the new `apply` does not. I am not sure which of the two behaviors I prefer. The new one is simpler to explain (`apply` errors out if a new evar is created) but it could also be argued that the new evar is not really new (no universal quantifier was actually substituted with a fresh evar) and thus the old behavior was more useful.

**Comment by silene** [comment]
> no universal quantifier was actually substituted with a fresh evar

Forget what I said. These are not refined evars; these are fresh evars used in universal quantifications. So, whichever way I look at it, there is no sane reason for the old behavior and the behavior you propose is akin to a bugfix.

**Comment by mattam82** [comment]
Indeed, that's the new spec (barring bugs I might have introduced). The only new evars that are allowed are descendants of previous evars due to clearing/prunning of some of the evar's variables due to dependencies. This follows the same principle as for goals: if a tactic applied to goal1 forces goal2 to not depend on some variables, goal2 stays a goal and is not shelved.

**Comment by mattam82** [comment]
Just rebased on master, waiting for #8741 and functional flags to continue.

**Comment by SkySkimmer** [comment]
Dependency merged some time ago.

**Comment by mattam82** [comment]
It still needs #7819 which has been lingering for a while

**Comment by ejgallego** [comment]
The dependency has been merged so this can be rebased now.

**Comment by maximedenes** [comment]
I'll try to rebase this now.

**Comment by maximedenes** [comment]
@mattam82 did you disallow edits from maintainers? It seems I can't push my rebase.

**Comment by SkySkimmer** [comment]
I can push fine

**Comment by SkySkimmer** [comment]
What git interface are you using, what are you telling it to do and what is it telling you in response?

**Comment by maximedenes** [comment]
> I can push fine

Ah yes, the address of my remote was incorrect. Thanks for testing.

File: proofs/clenvtac.ml [hunk 1]
```diff
@@ -84,16 +84,255 @@ let clenv_refine ?(with_evars=false) ?(with_classes=true) clenv =
...
+        with e -> sigma, clenv, Some (Some e, hyps_only, b)
+    in
+    let tac = clenv_unify_concl flags clenv in
+    (Unsafe.tclEVARS sigma) <*>
+    (Ftactic.run tac
+      (fun (sigma, clenv) ->
+        try let sigma, clenv =
+          match bindings with
+          | Some (exn, hyps_only, b) ->
+             (* Hack to make [exists 0] on [Σ x : nat, True] work, we
```
Comment (maximedenes) [inline proofs/clenvtac.ml]: @mattam82 Why is this `delay_bindings` hack needed? It makes `split` fail on `@sigT True (fun _ => True)`. Removing it gives me a universe inconsistency in `JMeq` (on an `exists`), but not necessarily for good reasons.

File: engine/evarutil.ml [hunk 2]
```diff
@@ -721,6 +726,33 @@ let rec advance sigma evk =
...
+      let evi = Evd.find current_sigma evk' in
+      match Evd.evar_body evi with
+      | Evd.Evar_empty -> visited
+      | Evd.Evar_defined c ->
+        match is_restricted_evar current_sigma evk' with
+        | Some evk' ->
+          if Evar.equal evk' evk then raise Exit
+          else search evk' visited
+        | None ->
+          if is_evar_evar_solution current_sigma evk' then begin
```
Comment (maximedenes) [inline engine/evarutil.ml]: @mattam82 I didn't understand well why this metadata is necessary. Why can't we just look at the instantiated body instead and see if it is an evar?

File: test-suite/bugs/closed/bug_4202.v [hunk 3]
```diff
@@ -4,7 +4,7 @@ Lemma foo (H : True) : exists n, g n /\ g n.
 eexists.
 clear H.
 split.
-simple apply a.
+simple eapply a.
```
Comment (maximedenes) [inline test-suite/bugs/closed/bug_4202.v]: @mattam82 is this change of behavior a bug?

File: test-suite/bugs/closed/bug_7392.v [hunk 4]
```diff
@@ -5,6 +5,6 @@ Proof.
 intros H0 H1.
 eapply H0.
 clear H1.
-apply ER.
+eapply ER.
```
Comment (maximedenes) [inline test-suite/bugs/closed/bug_7392.v]: @mattam82 is this change of behavior a bug?

File: test-suite/success/sprop.v [hunk 5]
```diff
@@ -116,7 +116,7 @@ Definition Istrue_rec (P:forall b, Istrue b -> Set) (H:P true istrue) b (i:Istru
 Proof.
   destruct b.
   - exact_no_check H.
-  - apply sEmpty_rec. apply Istrue_to_sym in i. exact i.
+  - eapply sEmpty_rec. Unshelve. apply Istrue_to_sym in i. exact i.
```
Comment (maximedenes) [inline test-suite/success/sprop.v]: @mattam82 is this change of behavior a bug?

File: proofs/clenvtac.ml (hunk 1 above)
Comment (mattam82) [reply proofs/clenvtac.ml]: Because your `split` shouldn’t work? I tried to maintain the exact same semantics as before here, for compatibility, otherwise it was breaking loads of code. I’m not saying this is not a hack :)

Comment (maximedenes) [reply proofs/clenvtac.ml]: Well, it seems used through `dtauto` in `test-suite/bugs/opened/bug_6393.v`, which now fails.

Comment (maximedenes) [reply proofs/clenvtac.ml]: And I confirm `split` does work on `@sigT True (fun _ => True)` on master.

File: engine/evarutil.ml (hunk 2 above)
Comment (mattam82) [reply engine/evarutil.ml]: I think we want to distinguish evar-evar solutions produced by unification (make it transparent to the user), while not messing with users explicit  instantiations. But you might be right that this is actually overkill! There must be a trickier reason...

Comment (mattam82) [reply engine/evarutil.ml]: I mean keeping the metadata vs checking if the body is an evar might have the same semantics in general, if any instantiation goes through solve_evar_evar

File: test-suite/bugs/closed/bug_4202.v (hunk 3 above)
Comment (mattam82) [reply test-suite/bugs/closed/bug_4202.v]: You have to check, but I thing they’re all buggy apply’s that actually generated evars in the original script

File: test-suite/success/sprop.v (hunk 5 above)
Comment (SkySkimmer) [reply test-suite/success/sprop.v]: Having to replace `apply foo.` by `eapply foo. Unshelve.` is pretty bad.

File: engine/evarutil.ml (hunk 2 above)
Comment (maximedenes) [reply engine/evarutil.ml]: evar-evar problems can also be solved by `solve_simple_eqn` AFAIK, but I don't know if it is a bug to distinguish it or if that's what you wanted to do.

Comment (maximedenes) [reply engine/evarutil.ml]: Although maybe it still goes through `solve_evar_evar` in the end, I'd have to check.

File: test-suite/success/sprop.v (hunk 5 above)
Comment (maximedenes) [reply test-suite/success/sprop.v]: Sure, I think you can do `refine` / `simple refine`, I'm not suggesting this as a patch. It is meant to be a reminder to study the change of behavior.

File: proofs/clenvtac.ml (hunk 1 above)
Comment (mattam82) [reply proofs/clenvtac.ml]: Ah, interesting, it certainly got fixed in the meantime. Can you remind me how split calls apply ?

Comment (maximedenes) [reply proofs/clenvtac.ml]: So that's `constructor` in fact.
On master: https://github.com/coq/coq/blob/831639deec0ce88fca4ede4756815cf434088ac3/tactics/tactics.ml#L2203
on this branch: 
https://github.com/mattam82/coq/blob/98326adaf66b7876bae7f4fb43e7530841377715/tactics/tactics.ml#L2265

File: proofs/clenvtac.ml [hunk 6]
```diff
@@ -84,16 +84,255 @@ let clenv_refine ?(with_evars=false) ?(with_classes=true) clenv =
...
+      rename_term env sigma v
+    else sigma, v
+  in
+  let reduce_goal gl =
+    let sigma = Proofview.Goal.sigma gl in
+    let concl = Proofview.Goal.concl gl in
+    let glev = Proofview.Goal.goal gl in
+    (* For compatibility: beta iota reduction *)
+    let concl = Reductionops.clos_norm_flags CClosure.betaiota env sigma concl in
+    let evi = Evd.find sigma glev in
```
Comment (mattam82) [inline proofs/clenvtac.ml]: Probably not entirely compatible: unfolding of let-ins was allowed before

**Comment by maximedenes** [comment]
Alright, since #7825 is slowly converging, let's go for a rebase!

**Comment by maximedenes** [comment]
@mattam82 rebased, unfortunately it breaks on a file that was added to stdlib after the creation of this PR.

File: theories/ZArith/Zpower.v [hunk 7]
```diff
@@ -266,7 +266,10 @@ Section power_div_with_rest.
     let '(q,r,d) := Pos.iter Zdiv_rest_aux (x, 0, 1) p in
     x = q * d + r /\ 0 <= r < d.
   Proof.
-    apply Pos.iter_invariant; [|rewrite Z.mul_1_r, Z.add_0_r; repeat split; auto; discriminate].
+   set (Inv := fun t => let
```
Comment (mattam82) [inline theories/ZArith/Zpower.v:269]: This might require `apply_ho` which favors higher-order unification?

File: theories/Numbers/Cyclic/Int63/Int63.v [hunk 8]
```diff
@@ -650,7 +650,7 @@ Proof.
  rewrite <- Zminus_plus_distr, Zplus_comm, Zminus_plus_distr.
  apply Zmod_small.
  generalize (to_Z_bounded x); auto with zarith.
-Qed.
+Admitted.
```
Comment (mattam82) [inline theories/Numbers/Cyclic/Int63/Int63.v:653]: It's the auto that fails?

**Comment by mattam82** [comment]
The HoTT failure looks surprising. Is it a failure of typeclass resolution?

**Comment by SkySkimmer** [comment]
Current compatibility break looks like
~~~coq
Definition left := list .
Definition right := list.

Definition bla T : left T := nil.

Lemma foo : right nat.
Proof.
  simple apply bla.
Qed.
~~~
master: success
PR: `Unable to unify "left ?T" with "right nat".`

File: theories/ZArith/Zpower.v (hunk 7 above)
Comment (maximedenes) [reply theories/ZArith/Zpower.v:269]: @mattam82 Where's `apply_ho`? I couldn't find it.

**Comment by JasonGross** [comment]
Here's a minimized example of the bbv failure which can be added to the standard library:
```coq
(* -*- mode: coq; coq-prog-args: ("-emacs" "-Q" "/home/runner/work/run-coq-bug-minimizer/run-coq-bug-minimizer/cwd" "Top" "-Q" "/home/runner/work/run-coq-bug-minimizer/run-coq-bug-minimizer/builds/coq/coq-failing/_build_ci/bbv/src/bbv" "bbv" "-top" "Word") -*- *)
(* File reduced by coq-bug-finder from original input, then from 7624 lines to 91 lines, then from 688 lines to 115 lines, then from 129 lines to 115 lines *)
(* coqc version 8.13+alpha (September 2020) compiled on Sep 14 2020 8:01:54 with OCaml 4.05.0
   coqtop version runner-0277ea0f-project-6138686-concurrent-0:/builds/coq/coq,(HEAD detached at 708c67a) (708c67a75ee72ac2b8e6330bef10a9665c3366fd) *)
Axiom proof_admitted : False.
Tactic Notation "admit" := abstract case proof_admitted.
Require Coq.Arith.Div2.
Require Coq.ZArith.ZArith.
Import Coq.NArith.NArith.

Fixpoint mod2 (n : nat) : bool :=
  match n with
    | 0 => false
    | 1 => true
    | S (S n') => mod2 n'
  end.

Notation pow2 := (Nat.pow 2).

Fixpoint Npow2 (n : nat) : N :=
  match n with
    | O => 1
    | S n' => 2 * Npow2 n'
  end%N.

Lemma pow2_zero: forall sz, (pow2 sz > 0)%nat.
admit.
Defined.

Theorem Npow2_nat : forall n, nat_of_N (Npow2 n) = pow2 n.
admit.
Defined.
Import Coq.Arith.Div2.
Import Coq.ZArith.ZArith.

Set Implicit Arguments.

Inductive word : nat -> Set :=
| WO : word O
| WS : bool -> forall n, word n -> word (S n).
Bind Scope word_scope with word.

Fixpoint wordToNat sz (w : word sz) : nat :=
  match w with
    | WO => O
    | WS false w' => (wordToNat w') * 2
    | WS true w' => S (wordToNat w' * 2)
  end.

Fixpoint natToWord (sz n : nat) : word sz :=
  match sz with
    | O => WO
    | S sz' => WS (mod2 n) (natToWord sz' (div2 n))
  end.

Fixpoint wordToN sz (w : word sz) : N :=
  match w with
    | WO => 0
    | WS false w' => 2 * wordToN w'
    | WS true w' => N.succ (2 * wordToN w')
  end%N.

Fixpoint wzero' (sz : nat) : word sz :=
  match sz with
    | O => WO
    | S sz' => WS false (wzero' sz')
  end.

Fixpoint posToWord (sz : nat) (p : positive) {struct p} : word sz :=
  match sz with
    | O => WO
    | S sz' =>
      match p with
        | xI p' => WS true (posToWord sz' p')
        | xO p' => WS false (posToWord sz' p')
        | xH => WS true (wzero' sz')
      end
  end.

Definition NToWord (sz : nat) (n : N) : word sz :=
  match n with
    | N0 => wzero' sz
    | Npos p => posToWord sz p
  end.

Definition wneg sz (x : word sz) : word sz :=
  NToWord sz (Npow2 sz - wordToN x).

  Notation "^~" := wneg : word_scope.

Lemma wordToNat_natToWord_2: forall sz w : nat,
    (w < pow2 sz)%nat -> wordToNat (natToWord sz w) = w.
admit.
Defined.

Theorem wordToN_nat : forall sz (w : word sz), wordToN w = N_of_nat (wordToNat w).
admit.
Defined.

Theorem NToWord_nat : forall sz n, NToWord sz n = natToWord sz (nat_of_N n).
admit.
Defined.

Theorem roundTrip_1 : forall sz, wordToNat (natToWord (S sz) 1) = 1.
admit.
Defined.

Lemma wneg_one_pow2_minus_one: forall {sz}, wordToNat (^~ (natToWord sz 1)) = pow2 sz - 1.
Proof.
  destruct sz; auto.
  unfold wneg; intros.
  rewrite wordToN_nat, roundTrip_1.
  simpl BinNat.N.of_nat.
  rewrite NToWord_nat, Nnat.N2Nat.inj_sub, Npow2_nat.
  apply wordToNat_natToWord_2.
  pose (pow2_zero (S sz)).
  omega.
```
Consider this a partial demo of what will hopefully become part of the standard PR workflow, where coqbot can automatically run my bug minimizer and post a response containing the hopefully-standalone minimized file.  (I've been working on this at https://github.com/coq-community/run-coq-bug-minimizer/pull/3 and https://github.com/coq/bot/issues/107)

**Comment by maximedenes** [comment]
@JasonGross Thanks, that's useful! However, it seems that `lia` succeeds here, and since `omega` is deprecated... I guess the "right" fix would be to port bbv to `lia`.

**Comment by maximedenes** [comment]
@mattam82 here's a reduced failure extracted from a regression in Flocq:

```coq
Definition F (n : nat) := match n with 0 => 1 | _ => 2 end.
Axiom foo : forall n m : nat, ((F n) <= m) -> n <= m.

Goal forall v, 1 <= v -> 0 <= v.
intros v H.
apply foo with (1 := H).
```

works in master, but in this branch it says 
```
Error:
In environment
v : nat
H : 1 <= v
The term "H" has type "1 <= v" while it is expected to have type
 "F ?n <= ?m".
```

**Comment by maximedenes** [comment]
I guess this is again because we don't unify with the conclusion early enough, but I'm not sure what exactly should be done.

**Comment by herbelin** [comment]
> I guess this is again because we don't unify with the conclusion early enough, but I'm not sure what exactly should be done.

Anticipating on @mattam82's answer, the point is that `with` bindings are able (for `Meta`) to postpone the unification of the actual and expected type of the argument (so as e.g. introduce coercions).

But even if insertion of coercions is abandoned in the unifall move (it would require dedicated "coercion" evars I believe), the problem falls in one of the limitation of the current `evarconv` algorithm. This limitation is also visible if we do `apply (foo _ _ H)` which fails, even though we could get knowledge on `?n` from another place.

This limitation is unmotivated: nothing prevents the equation `F ?n == 1` to be eventually solved since this is a flex/rigid equation. It should instead be postponed.

An alternative is to try to resolve `match ?n with Ci xi => ui end == t` for `t` rigid. If all equations of the form `ui[?xi] == t` either succeed immediately with solution `?xi := vi` or are impossible, we can assert that the list of candidates for `?n` are the `Ci vi` for which it succeeded. In the present case, since only the first branch unifies, the solution `?n := 0` would have then been found even without needing the other unification problem. It is bit tricky to implement but that would be a very valuable improvement. Of course, there is a potential drawback in terms of complexity, since inductive types may have an arbitrary large number of constructors, but we may set an empirical threshold limiting this strategy to types, say, with at most 3 constructors.

**Comment by maximedenes** [comment]
> But even if insertion of coercions is abandoned in the unifall move

We added (some of) it back by postponing the instantiation of holes of not-yet-known type.

> `with` bindings are able (for `Meta`) to postpone the unification of the actual and expected type of the argument (so as e.g. introduce coercions).

On `master`, when is this unification postponed? Maybe we could use the same criterion.

**Comment by herbelin** [comment]
> On master, when is this unification postponed? Maybe we could use the same criterion.

In `Clenv.clenv_unify_binding_type`, there is a `Meta` flag `TypeNotProcessed` to postpone this unification.

**Comment by gares** [comment]
> I guess this is again because we don't unify with the conclusion early enough, but I'm not sure what exactly should be done.

I'm a bit puzzled by the example. To me `apply A with B` is a way to help giving a type to `A` so that it unifies with the goal. It is not a shortcut for `apply A; apply B` (which here would have worked just fine).

Is the minimization right?

**Comment by maximedenes** [comment]
> To me `apply A with B` is a way to help giving a type to `A` so that it unifies with the goal.

I'm not sure exactly what you mean by this. `apply foo with (n := bar)` instantiates the `n`-th non-dependent premise in the type of `foo` by `bar`. Isn't it the way it is used in the example?

**Comment by gares** [comment]
It is the intent of that line which is weird to me.

Instantiating the first hyp with H is what triggers an hard problem. Instantiating the first hyp with H is not helping apply. To me you add a `with n := t` in order to ease the job of apply, it is a sort of extra hint. Sure, nobody prevents you from using `with` in other occasions, like this one. It just does not seem a common use case for apply with. I mean, one can always ask Coq to solve a unification problem that is hard. Here it seems a bit gratuitous. If I was the author of such a script I would rather change the script.

**Comment by silene** [comment]
Since I am the author of the line, I feel compelled to reply. This kind of script is certainly a common use case, as far as I am concerned. Whenever `apply foo. n: exact bar` would succeed, I instead use `apply foo with (n := bar)`.

**Comment by gares** [comment]
Even if `Check (foo (n := bar))` fails? (or works by "miracle")?

My understanding of the problem minimized here is that, in order to make `(foo (n := bar) : goal)` typecheck one has to divine that `(foo ?n : goal) (n := bar)` is actually the right order in which things have to be done.

Of course a unification problem which is that hard can happen deep and be almost invisible to the user. But in this minimized example it is immediate to see that by passing `with (n := bar)` you are looking for troubles. This is why I was asking if it was artificial.

**Comment by silene** [comment]
> Even if `Check (foo (n := bar))` fails? (or works by "miracle")?

That is not a good comparison. The correct one would be `Check (foo (n := bar) : goal)`. Also, I would not call it a miracle, since Coq has all the information needed. Sure, I understand that Coq will fail to typecheck this term depending on the order of unification. So, I am perfectly fine with modifying my script. But there is nothing artificial about it.

**Comment by herbelin** [comment]
Coming back to my proposal to add a way to solve equations of the form `match ?n with ... end == rigid-term`, if someone is interested in contributing, please tell.

**Comment by maximedenes** [comment]
> Coming back to my proposal to add a way to solve equations of the form `match ?n with ... end == rigid-term`, if someone is interested in contributing, please tell.

I personally think it is totally unreasonable to add complexity to unification until the current implementation is documented.

**Comment by herbelin** [comment]
On the other side, working on unification is an incent to document it...

**Comment by herbelin** [comment]
To continue on the question of documenting unification, I had started a branch with some documention but it requires some long term investment which I have difficulties to find. Working as part of an interaction between several people would be easier for me.

**Comment by maximedenes** [comment]
> I had started a branch with some documention but it requires some long term investment

Oh, I wasn't aware of that. Do you have a pointer? Given the critical need for documentation of the code, I think we should be *very* flexible on documentation PRs, i.e. accepting partial documentation, etc.

So in a sense, don't hesitate to publish the documentation work even if not finished. An incomplete documentation is always better than no documentation. Also, I'll be happy to give some feedback in some parts seem unclear to me.

**Comment by gares** [comment]
In its full generality, inverting a match is very hard, and in general not possible since it does not necessarily describe an injective function (just think at fibonacci 0 and fibonacci 1, the first example that comes to mind).

IMO, this is where unification hints like mechanisms shine, they let the user add rules to unification which helps her development. If you stay at the purely abstract level of "inverting a match" then it has to be an heuristic, it works for you but may not work for me. But if you are talking about a well known (named) match which happens to be be invertible, then one could add a rule for that.

About documentation, "stock" unification should stay predictable and sound, hence "documenteable", while user extensions could  be smarter (and ad-hoc for her specific needs, even heuristics).

**Comment by herbelin** [comment]
> Oh, I wasn't aware of that. Do you have a pointer? Given the critical need for documentation of the code, I think we should be *very* flexible on documentation PRs, i.e. accepting partial documentation, etc.

> So in a sense, don't hesitate to publish the documentation work even if not finished. An incomplete documentation is always better than no documentation. Also, I'll be happy to give some feedback in some parts seem unclear to me.

You can e.g. look at f249320a60d76d37d23f97b5147be47ee0b14a48 (in branch [trunk+structuration-unif](https://github.com/herbelin/github-coq/tree/trunk%2Bstructuration-unif)), which is part of some (incremental) attempt to make evarconv more regular.

I may try to rebase it if you want.

**Comment by herbelin** [comment]
@gares: yes, "unification hints" are very interesting rules to guide unification. Here, however, I was not talking about a heuristic but about _reversible_ progress, collecting the solutions as "candidates".

I don't know what you call "stock" unification, but if you mean the reversible part of unification (i.e. the part which does not lose solutions), this is exactly what I'm talking about.

**Comment by maximedenes** [comment]
@mattam82 quick question: the behavior of `eapply` seems to have significantly changed w.r.t. typeclasses:
```coq
Class C := {}.
Instance foo : C := {}.

Axiom bar : forall x : C, x = x -> True.

Goal True.
eapply bar.
```

On master:
```coq
============================
  foo = foo
```

On this branch:
```coq
============================
  ?x = ?x
```

Are we missing a call to TC resolution somewhere?

**Comment by maximedenes** [comment]
The behavior on `master` is strange, though, because `apply bar` complains that it cannot find an instance for `x`, but `eapply bar` finds `foo`...

**Comment by maximedenes** [comment]
Notes from latest session:
- tlc has a strange use of typeclasses on non-implicit lemma arguments, to discuss with Arthur
- bignums now goes through properly
- argosy shows an exact step which has become more powerful in eauto, to investigate more with Matthieu
- bbv should be fixed by https://github.com/mit-plv/bbv/pull/32
- bedrock2 shows an anomaly in flex_kind_of_term!

**Comment by mattam82** [comment]
And equations should be fixable except for a remaining bug in `auto`

**Comment by maximedenes** [comment]
Notes:
- try to call `unify` directly from `e_give_exact`, instead of going through heuristics
- add a flag to disable Miller pattern unification, and use the flag in `simple apply` (and `eauto`)
